.title
.option post
.temp 85
.lib "/home/SLIC02/Cadence_cyj/SPICE_Model/HL18G-SL3.7/HSPICE/HL18G-S3.7S.lib" tt_tn
************************************************************************
* auCdl Netlist:
* 
* Library Name:  Test
* Top Cell Name: SRAM_2x2
* View Name:     schematic
* Netlisted on:  Mar  6 05:37:36 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Test
* Cell Name:    inv_1
* View Name:    schematic
************************************************************************

.SUBCKT inv_1 GND VDD Vin Vout
*.PININFO GND:B VDD:B Vin:B Vout:B
MNM0 Vout Vin GND GND nch_tn W=300n L=180n M=1.0
MPM0 Vout Vin VDD VDD pch_tn W=500n L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    precharge
* View Name:    schematic
************************************************************************

.SUBCKT precharge B Bbar GND VDD charge_en
*.PININFO B:B Bbar:B GND:B VDD:B charge_en:B
MPM3 Bbar charge_en B VDD pch_tn W=1.4u L=180n M=1.0
MPM2 B charge_en Bbar VDD pch_tn W=1.4u L=180n M=1.0
MPM1 B charge_en VDD VDD pch_tn W=1.4u L=180n M=1.0
MPM0 Bbar charge_en VDD VDD pch_tn W=1.4u L=180n M=1.0
XI0 GND VDD charge_en charge_enb / inv_1
MNM1 Bbar charge_enb B GND nch_tn W=1.4u L=180n M=1.0
MNM0 B charge_enb Bbar GND nch_tn W=1.4u L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD Vin Vout
*.PININFO GND:B VDD:B Vin:B Vout:B
MNM0 Vout Vin GND GND nch_tn W=220n L=180n M=1.0
MPM0 Vout Vin VDD VDD pch_tn W=500n L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    guan
* View Name:    schematic
************************************************************************

.SUBCKT guan BL BLq GND VDD Vin
*.PININFO BL:B BLq:B GND:B VDD:B Vin:B
MNM75 BLq Vin BL GND nch_tn W=220n L=180n M=1.0
MNM76 BL net34 GND GND nch_tn W=220n L=180n M=1.0
XI78 GND VDD Vin net34 / inv
MPM5 BL net34 BLq VDD pch_tn W=220n L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    nor2
* View Name:    schematic
************************************************************************

.SUBCKT nor2 A B GND VDD Vout
*.PININFO A:B B:B GND:B VDD:B Vout:B
MPM1 Vout B net12 VDD pch_tn W=1u L=180n M=1.0
MPM0 net12 A VDD VDD pch_tn W=1u L=180n M=1.0
MNM1 Vout B GND GND nch_tn W=250n L=180n M=1.0
MNM0 Vout A GND GND nch_tn W=250n L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    Decoder2_4
* View Name:    schematic
************************************************************************

.SUBCKT Decoder2_4 A B BL0 BL1 BL2 BL3 BLq0 BLq1 BLq2 BLq3 GND VDD
*.PININFO A:B B:B BL0:B BL1:B BL2:B BL3:B BLq0:B BLq1:B BLq2:B BLq3:B GND:B 
*.PININFO VDD:B
XI83 BL0 BLq0 GND VDD B0 / guan
XI84 BL1 BLq1 GND VDD B1 / guan
XI85 BL2 BLq2 GND VDD B2 / guan
XI86 BL3 BLq3 GND VDD B3 / guan
XI4 net4 net5 GND VDD B3 / nor2
XI3 net4 B GND VDD B2 / nor2
XI2 A net5 GND VDD B1 / nor2
XI1 A B GND VDD B0 / nor2
XI0 GND VDD A net4 / inv
XI7 GND VDD B net5 / inv
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    MUX_B
* View Name:    schematic
************************************************************************

.SUBCKT MUX_B B D7 GND VDD W_E
*.PININFO B:B D7:B GND:B VDD:B W_E:B
MNM3 net06 D7 GND GND nch_tn W=450n L=180n M=1.0
MNM0 net74 W_E GND GND nch_tn W=450n L=180n M=1.0
MNM2 net71 W_E GND GND nch_tn W=1.215u L=180n M=1.0
MNM1 B net06 net71 net71 nch_tn W=1.215u L=180n M=1.0
MPM3 net06 D7 VDD VDD pch_tn W=1.35u L=180n M=1.0
MPM2 B net06 net72 net72 pch_tn W=2.115u L=180n M=1.0
MPM1 net72 net74 VDD VDD pch_tn W=2.115u L=180n M=1.0
MPM0 net74 W_E VDD VDD pch_tn W=1.35u L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    MUX_Bbar
* View Name:    schematic
************************************************************************

.SUBCKT MUX_Bbar Bbar D7 GND VDD W_E
*.PININFO Bbar:B D7:B GND:B VDD:B W_E:B
MNM2 net11 W_E GND GND nch_tn W=12.15u L=180n M=1.0
MNM1 Bbar D7 net11 net11 nch_tn W=12.15u L=180n M=1.0
MNM0 net8 W_E GND GND nch_tn W=450n L=180n M=1.0
MPM2 Bbar D7 net13 net13 pch_tn W=2.115u L=180n M=1.0
MPM1 net13 net8 VDD VDD pch_tn W=2.115u L=180n M=1.0
MPM0 net8 W_E VDD VDD pch_tn W=1.35u L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    sense_amplifier
* View Name:    schematic
************************************************************************

.SUBCKT sense_amplifier B Bbar GND ReadOut ReadOutbar VDD sense
*.PININFO B:B Bbar:B GND:B ReadOut:B ReadOutbar:B VDD:B sense:B
MPM3 ReadOut ReadOutbar VDD VDD pch_tn W=810n L=180n M=1.0
MPM2 ReadOutbar ReadOut VDD VDD pch_tn W=810n L=180n M=1.0
MPM1 ReadOutbar sense Bbar VDD pch_tn W=1.305u L=180n M=1.0
MPM0 ReadOut sense B VDD pch_tn W=1.305u L=180n M=1.0
MNM2 net8 VDD GND GND nch_tn W=900n L=180n M=1.0
MNM1 ReadOutbar ReadOut net8 net8 nch_tn W=495n L=180n M=1.0
MNM0 ReadOut ReadOutbar net8 net8 nch_tn W=495n L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    SRAM_6T
* View Name:    schematic
************************************************************************

.SUBCKT SRAM_6T B Bbar GND VDD W0
*.PININFO B:B Bbar:B GND:B VDD:B W0:B
MNM3 B W0 net12 GND nch_tn W=700n L=180n M=1.0
MNM2 Bbar W0 net3 GND nch_tn W=700n L=180n M=1.0
MNM1 net3 net12 GND GND nch_tn W=1.5u L=180n M=1.0
MNM0 net12 net3 GND GND nch_tn W=1.5u L=180n M=1.0
MPM1 net3 net12 VDD VDD pch_tn W=450n L=180n M=1.0
MPM0 net12 net3 VDD VDD pch_tn W=450n L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    SRAM_2x2
* View Name:    schematic
************************************************************************

.SUBCKT SRAM_2x2 GND Num_0 Num_1 ReadOut ReadOutbar VDD W0_en W1_en W2_en 
+ W3_en W_E data read_en
*.PININFO GND:B Num_0:B Num_1:B ReadOut:B ReadOutbar:B VDD:B W0_en:B W1_en:B 
*.PININFO W2_en:B W3_en:B W_E:B data:B read_en:B
XI8 B Bbar GND VDD read_en / precharge
XI5 Num_0 Num_1 W0 W1 W2 W3 W0_en W1_en W2_en W3_en GND VDD / Decoder2_4
XI6 B data GND VDD W_E / MUX_B
XI7 Bbar data GND VDD W_E / MUX_Bbar
XI4 B Bbar GND ReadOut ReadOutbar VDD read_en / sense_amplifier
XI3 B Bbar GND VDD W3 / SRAM_6T
XI2 B Bbar GND VDD W2 / SRAM_6T
XI1 B Bbar GND VDD W1 / SRAM_6T
XI0 B Bbar GND VDD W0 / SRAM_6T
.ENDS
XSRAM_2x2 GND Num_0 Num_1 ReadOut ReadOutbar VDD W0_en W1_en W2_en 
+ W3_en W_E data read_en SRAM_2x2
VVDD VDD 0 0.57
VGND GND 0 0
Vread_en read_en 0 0.57
.vec 'SRAM2X2.vec'
.tran 0.1n 250n
.end
